US04186135
400 ml of methylethylcetone and 11 g of methylpiperazine were introduced into a balloon flask provided with an agitator and a thermometer. The mixture was cooled to 10° C. and then 41 g of 6,7-dibromo-8-nitro-1,4-benzodioxane-5-carbonyl chloride were added in portions with the temperature being maintained below 20° C. After agitation of the mixture, the crystals were dried off, washed with methylethylcetone and dried and then dissolved in water and reprecipitated by addition of 50 ml of 20% ammonia. The crystals were dried off, washed with water and dried. 33 g of 5-[(4-methyl-1-piperazinyl)-carbonyl]-6,7-dibromo-8-nitro-1,4-benzodioxane were obtained (M.P.: 164° C.; yield: 69.6%).

reactant | methylpiperazine | 11 g | CN1CCNCC1 | C5H12N2
reactant | 6,7-dibromo-8-nitro-1,4-benzodioxane-5-carbonyl chloride | 41 g | BrC1=C(C2=C(OCCO2)C(=C1Br)[N+](=O)[O-])C(=O)Cl | C9H4Br2ClNO5
product | 5-[(4-methyl-1-piperazinyl)-carbonyl]-6,7-dibromo-8-nitro-1,4-benzodioxane | 33 g, yield: 69.6% | CN1CCN(CC1)C(=O)C1=C(C(=C(C=2OCCOC21)[N+](=O)[O-])Br)Br | C14H15Br2N3O5
